US08420670B2
(3,4-Dichlorobenzyl)-(2-methylquinolin-4-yl)-amine
Preparation was made using a similar procedure as described in example 1, method 1.3. Starting materials were 4-chloro-2-methylquinoline and 3,4-dichlorobenzylamine.

reactant | 4-chloro-2-methylquinoline | ClC1=CC(=NC2=CC=CC=C12)C | C10H8ClN
reactant | 3,4-dichlorobenzylamine | ClC=1C=C(CN)C=CC1Cl | C7H7Cl2N
product | (3,4-Dichlorobenzyl)-(2-methylquinolin-4-yl)-amine | ClC=1C=C(CNC2=CC(=NC3=CC=CC=C23)C)C=CC1Cl | C17H14Cl2N2
